US07951824B2
Step 6: 4-(3-Chloro-4-fluoro-phenyl)-3,6-dimethyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The title compound, was prepared from 4-Bromo-3,6-dimethyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide and 3-Chloro-4-fluorophenylboronic acid in accordance with the general method of example 1, step 6 to yield the final compound as a light yellow solid, MS (ISP): m/e=376.2, 378.2 (M+H)+.

reactant | 4-Bromo-3,6-dimethyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1C)Br)C | C12H12BrN3OS
reactant | 3-Chloro-4-fluorophenylboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 4-(3-Chloro-4-fluoro-phenyl)-3,6-dimethyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1C)C1=CC(=C(C=C1)F)Cl)C | C18H15ClFN3OS
